US05173489
Following the procedure described in Example 608, Part C, 3.45 g (19 mmole), of 4-azafluoren-9-one, 6.8 g (0.213 mole) of hydrazine in 50 ml of diethyleneglycol were combined and heated to 205° over a 30-minute period. TLC showed no remaining starting material. Identical workup yielded 2.33 g of pure 4-azafluorene, RF-0.46 (hexane ethylacetatetriethylamine, 29.75:69.46:0.79).

reactant | 4-azafluoren-9-one | C1=CC=NC=2C3=CC=CC=C3C(C12)=O | C12H7NO
reactant | hydrazine | 0.213 mole, 6.8 g | NN | H4N2
solvent | diethyleneglycol | 50 ml | C(COCCO)O | C4H10O3
product | 4-azafluorene | 2.33 g | C1=CC=NC=2C3=CC=CC=C3CC12 | C12H9N
